US04638075
N-(5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidin-2-yl)-2,5-dichlorobenzene-sulfonamide
A solution of 4.60 g (13.3 mmol) of N-(5-amino-1,2,4-triazol-3-yl)-2,5-dichlorobenzenesulfonamide hydrochloride and 4.0 g (40 mmol) of 2,4-pentanedione in 60 ml of glacial acetic acid was heated at reflux for 4 hours. The reaction mixture was cooled to room temperature and poured into 500 ml of ice water to separate a solid. The solid was collected by filtration and dried to yield 4.53 g (92 percent) of the desired product as a white solid, m.p. 216.5°-218.5° C.

reactant | N-(5-amino-1,2,4-triazol-3-yl)-2,5-dichlorobenzenesulfonamide hydrochloride | 13.3 mmol, 4.60 g | Cl.NC1=NC(=NN1)NS(=O)(=O)C1=C(C=CC(=C1)Cl)Cl
reactant | 2,4-pentanedione | 40 mmol, 4.0 g | CC(CC(C)=O)=O | C5H8O2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | N-(5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidin-2-yl)-2,5-dichlorobenzene-sulfonamide | 4.53 g, 92 percent | CC1=NC=2N(C(=C1)C)N=C(N2)NS(=O)(=O)C2=C(C=CC(=C2)Cl)Cl | C13H11Cl2N5O2S
